US08039450B2
A mixture of 4-[4-bromo-3-(hydroxymethyl)phenoxy]-3-formylbenzonitrile (25.5 g, 76.8 mmol), 3,4-dihydro-2H-pyran (10.4 mL, 115 mmol), and dl-10-camphorsulfonic acid (356 mg, 2 mol %) in dichloromethane (300 mL) was stirred at room temperature for 2 h. Sodium carbonate (3 g) was added, and the mixture was poured into water/chloroform. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column (85:15 hexane/ethyl acetate) to give 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-formylbenzonitrile (28.0 g, 88%).

reactant | 4-[4-bromo-3-(hydroxymethyl)phenoxy]-3-formylbenzonitrile | 76.8 mmol, 25.5 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)C=O)C=C1)CO | C15H10BrNO3
reactant | 3,4-dihydro-2H-pyran | 115 mmol, 10.4 mL | O1CCCC=C1 | C5H8O
reactant | Sodium carbonate | 3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water chloroform | O.C(Cl)(Cl)Cl
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | dl-10-camphorsulfonic acid | 356 mg | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-formylbenzonitrile | 28.0 g, 88% | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)C=O)C=C1)COC1OCCCC1 | C20H18BrNO4
